US07977331B1
To a solution of sodium hydrogen carbonate (3.30 g, 39.7 mmol) and 2-aminoethanol (1.80 ml, 29.8 mmol) in ethyl acetate (25 ml) and water (15 ml) was added dropwise the solution of 2-iodobenzoyl chloride in ethyl acetate prepared above under ice-cooling, and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give N-(2-hydroxyethyl)-2-iodobenzamide (5.12 g, yield 87.6%).

reactant | sodium hydrogen carbonate | 39.7 mmol, 3.30 g | C(O)([O-])=O.[Na+]
reactant | 2-aminoethanol | 29.8 mmol, 1.80 ml | NCCO | C2H7NO
reactant | 2-iodobenzoyl chloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 15 ml | O | H2O
product | N-(2-hydroxyethyl)-2-iodobenzamide | 5.12 g, yield 87.6% | OCCNC(C1=C(C=CC=C1)I)=O | C9H10INO2
